US04393217
As for Example 1, N-o-chlorobenzyl-2-cyanoacetamide, colorless needles, m.p. 108°-109° C., (prepared as described in U.S. Pat. No. 3,116,312) is heated with N,N-dimethylformamide dimethylacetal to give N-o-chlorobenzyl-2-cyano-3-dimethylaminoacrylamide as colorless needles, m.p. 144°-146.5° C.

reactant | N-o-chlorobenzyl-2-cyanoacetamide | ClC1=C(CNC(CC#N)=O)C=CC=C1 | C10H9ClN2O
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | N-o-chlorobenzyl-2-cyano-3-dimethylaminoacrylamide | ClC1=C(CNC(C(=CN(C)C)C#N)=O)C=CC=C1 | C13H14ClN3O
